Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Motor vehicle crash
 
Major Surgical or Invasive Procedure:
External fixation of comminuted fractures of right tibia and 
fibula 
 
History of Present Illness:
___ ___ speaking (___) h/o heroin on methadone s/p 
MVC ___ falling asleep. Unrestrained, +airbag, +HS, - LOC, 
transferred from OSH for mgt of open tib/fib fractures. + 
pulses, no neurological symptoms. GCS 15 in trauma bay. 
 
Past Medical History:
Asthma
Drug abuse on methadone 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
VS
 
Pertinent Results:
___ 12:50PM BLOOD WBC-17.9* RBC-4.56* Hgb-13.4* Hct-40.0 
MCV-88 MCH-29.4 MCHC-33.5 RDW-12.7 RDWSD-40.1 Plt ___
___ 06:25AM BLOOD WBC-14.7* RBC-4.34* Hgb-12.6* Hct-37.9* 
MCV-87 MCH-29.0 MCHC-33.2 RDW-12.6 RDWSD-40.1 Plt ___
___ 05:25AM BLOOD WBC-11.4* RBC-4.23* Hgb-12.3* Hct-37.5* 
MCV-89 MCH-29.1 MCHC-32.8 RDW-13.1 RDWSD-42.2 Plt ___
___ 05:25AM BLOOD Plt ___
___ 06:25AM BLOOD Plt ___
___ 12:50PM BLOOD Plt ___
___ 12:50PM BLOOD ___ 05:25AM BLOOD Glucose-102* UreaN-13 Creat-0.8 Na-137 
K-3.6 Cl-98 HCO3-30 AnGap-13
___ 06:25AM BLOOD Glucose-122* UreaN-9 Creat-0.8 Na-140 
K-4.0 Cl-100 HCO3-27 AnGap-17
___ 01:05PM BLOOD Glucose-110* Lactate-2.2* Na-141 K-4.6 
Cl-101 calHCO3-___ involved in inrestraint MVC on ___. He was taken to 
___ and found to have open right tib/fib fracture 
as well as Left ___ rib fractures. He was then transferred to 
___ for further management. Orthosurgery was consulted for his 
___ fracture which required urgent stabilization. pt was then 
taken to the OR for washout and external fixation of his right 
tib/fib fracture. pt tolerated procedure well and was brought 
back to the floor after an uneventful stay at the PACU. For 
details of the procedure, please refer to the operative note. pt 
was admitted under ACS for poly trauma. 

N:pt was AAOx3 throughout hospitalization. Due to h/o methadone, 
ACS was consulted for pain. He was started with split epidural 
for leg and rib pain. He continues to receive his home dose of 
methadone along with ms contin. On discharge, pt was put on MS 
contin and dilaudid with supplies lasting until his next follow 
up visit with Orthosurgery on ___ or ___. 
CV: Cardiovascular functions were monitored routinely 
noninvasively and pt was hemodynamically stable.
Pulm: Pulmonary toilet was encouraged with early oob/amb and IS.
GIGUFEN: pt tolerated a diet without issues immediately. His 
fluids and electrolyte status was monitored and repleted 
appropriately. 
ID: pt was afebrile throughout hospitalization and received 
intraoperative abx. 
DVT ppx was given as HSQ. Physical therapy and occupational 
therapy worked extensively with the pt and deemed him able for 
discharge home. Upon d/c, pt was doing well, afebrile, and 
hemodynamically stable wnl. pt received discharge instructions 
and teaching, along with follow up instructions. pt verbalizes 
agreement and understanding of discharge plans.

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY Duration: 28 Days 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Acetaminophen 1000 mg PO Q8H 
Take this for breakthrough pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
4. Morphine SR (MS ___ 30 mg PO Q12H 
RX *morphine 30 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*10 Tablet Refills:*0
5. Senna 8.6 mg PO DAILY 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 by mouth twice 
a day Disp #*60 Tablet Refills:*0
6. Methadone 15 mg PO DAILY 
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
do NOT drink alcohol or drive while taking this medication  
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right open tibia fracture
Left ___ rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You presented to the ___ on 
___ after your involvement in a motor vehicle collision.  
You were found to have a right leg fracture.  You were admitted 
to the Trauma/Acute Care Surgery team for further medical 
management. 

On ___, you were taken to the Operating Room with the 
Orthopaedics team and underwent a right leg washout and 
application of an ex-fix hardware device.  You tolerated this 
procedure well.

You have worked with Physical Therapy, are tolerating a regular 
diet and your pain is better controlled.  You are now medically 
cleared to be discharged to home.  Please note the following 
discharge instructions: 
 
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:
- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- nonweight bearing right leg

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take aspirin for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
Pin Site Care Instructions for Patient and ___
For patients discharged with external fixators in place, the 
initial dressing may have Xeroform wrapped at the pin site with 
surrounding gauze.
Often, the Xeroform is used in the immediate post-op phase to 
allow for control of the bleeding. The Xeroform can be removed 
___ days after surgery.
If the pin sites are clean and dry, keep them open to air. If 
they are still draining slightly, cover with clean dry gauze 
until draining stops.
If they need to be cleaned, use ___ strength Hydrogen Peroxide 
with a Q-tip to the site.

 
Followup Instructions:
___